US09102607B2
21.5 g (93.8 mmol) of 2-(tert-butoxycarbonyloxy)-benzaldehyde and 80 ml (750 mmol) of 2-methyl-2-butene are diluted in 250 ml of tert-butanol. A solution containing 28.1 g (234 mmol) of sodium hydrogenphosphate and 29.7 g (328 mmol) of sodium chlorite in 75 ml of water is added dropwise to the reaction medium, which is stirred at ambient temperature for 2 hours. The mixture is evaporated under reduced pressure and the residue is dissolved in dichloromethane. The organic phase is washed with water, dried over magnesium sulphate, filtered and concentrated. The white solid obtained is precipitated from heptane at 0° C. The precipitate is filtered off and then rinsed with heptane and dried. 15.8 g of 2-(tert-butoxycarbonyloxy)benzoic acid are obtained in the form of a white powder with a yield of 70%.

reactant | 2-(tert-butoxycarbonyloxy)-benzaldehyde | 93.8 mmol, 21.5 g | C(C)(C)(C)OC(=O)OC1=C(C=O)C=CC=C1 | C12H14O4
reactant | 2-methyl-2-butene | 750 mmol, 80 ml | CC(C)=CC | C5H10
reactant | sodium hydrogenphosphate | 234 mmol, 28.1 g | P(=O)(O)([O-])[O-].[Na+].[Na+]
reactant | sodium chlorite | 328 mmol, 29.7 g | Cl(=O)[O-].[Na+]
solvent | tert-butanol | 250 ml | C(C)(C)(C)O | C4H10O
solvent | water | 75 ml | O | H2O
product | 2-(tert-butoxycarbonyloxy)benzoic acid | 15.8 g, yield of 70% | C(C)(C)(C)OC(=O)OC1=C(C(=O)O)C=CC=C1 | C12H14O5
